US05541229
4'-[(2-Methylsulphinylmethyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 63 from 4'-[(2-methylthiomethyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid and hydrogen peroxide/acetic acid.

reactant | 4'-[(2-methylthiomethyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | CSCC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C23H20N2O2S
reactant | hydrogen peroxide acetic acid | OO.C(C)(=O)O
product | 4'-[(2-Methylsulphinylmethyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | CS(=O)CC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=CC=C2 | C23H20N2O3S
